US04036872
A solution (1.66 ml.) of methyl magnesium iodide in diethyl ether [prepared in the manner well known in the art from methyl iodide (6 g.), magnesium (1.07 g.) and diethyl ether (20 ml.)] was added dropwise to a stirred solution of trimethylsilyl 7-{7-(3-oxo-4-propoxybut-1-enyl)-1,4-dioxaspiro[4,4]non-6-yl}heptanoate (0.67 g.) in diethyl ether (25 ml.) at room temperature. The mixture was stirred for 30 minutes and a further quantity of the solution of methyl magnesium iodide in diethyl ether (0.4 ml.) was then added dropwise. The mixture was stirred for a further 30 minutes and then added to saturated aqueous ammonium chloride solution (100 ml.) at 0° C. and stirred for 15 minutes. The ether layer was separated and the aqueous layer was extracted with diethyl ether. The combined ether layers were added to 10% w/v aqueous sodium carbonate solution (25 ml.) and stirred for 1 hour. The aqueous layer was separated and washed with diethyl ether, and then acidified to pH 5 by the addition of 20% w/v aqueous sodium dihydrogen phosphate solution. The aqueous layers were again extracted with diethyl ether and the resulting ether extracts dried over sodium sulphate. The solvent was removed in vacuo to give crude 7-{7-(3-hydroxy-3-methyl-4-propoxybut-1-enyl)-1,4-dioxaspiro[4,4]non-6-yl}heptanoic acid (0.39 g.).

reactant | methyl magnesium iodide | 1.66 ml | C[Mg]I
reactant | methyl iodide | 6 g | CI | CH3I
reactant | magnesium | 1.07 g | [Mg] | Mg
reactant | trimethylsilyl 7-{7-(3-oxo-4-propoxybut-1-enyl)-1,4-dioxaspiro[4,4]non-6-yl}heptanoate | 0.67 g | O=C(C=CC1C(C2(OCCO2)CC1)CCCCCCC(=O)O[Si](C)(C)C)COCCC | C24H42O6Si
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.4 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 7-{7-(3-hydroxy-3-methyl-4-propoxybut-1-enyl)-1,4-dioxaspiro[4,4]non-6-yl}heptanoic acid | 0.39 g | OC(C=CC1C(C2(OCCO2)CC1)CCCCCCC(=O)O)(COCCC)C | C22H38O6
